US05273986
A solution of 2.8 g of (E)-3-[2-[4-(cyclohexyl)-2-thiazolyl]ethenyl]benzeneamine, 1.78 g of homophthalic anhydride and 30 ml of toluene were heated to reflux for 0.5 hr. Cooling and filtration yielded 4.12 g of (E)-2-[2-[3-[2-[4-(cyclohexyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid; m.p. 210°-211° C. from tetrahydrofuran.

reactant | (E)-3-[2-[4-(cyclohexyl)-2-thiazolyl]ethenyl]benzeneamine | 2.8 g | C1(CCCCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)N | C17H20N2S
reactant | homophthalic anhydride | 1.78 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2-[2-[3-[2-[4-(cyclohexyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid | 4.12 g | C1(CCCCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC1=C(C(=O)O)C=CC=C1)=O | C26H26N2O3S
